US06953812B2
4-[1-(Cyclohexylphenyl)-3-(3-methoxy-5-trifluormethylphenyl)ureidomethyl]benzoic acid (420 mg, 0.8 mmol) was dissolved in DMF (10 mL), and then HOBt (160 mg, 1.2 mmol) and EDAC (230 mg, 1.2 mmol) were added. The reaction mixture was allowed to stand for 30 min, then (R)-isoserine ethyl ester (260 mg, 1.2 mmol) and dissopropylethylamine (210 mL, 1.2 mmol) dissolved in DMF (5 mL) were added and the reaction mixture was stirred at room temperature for 16 hours. Water (50 mL) and ethyl acetate (100 mL) were added and the organic phase was washed with water (5×50 mL), dried (magnesium sulphate), filtered and evaporated in vacuo. The residue was purified by column chromatography on silica gel, eluting with a mixture of heptane and ethyl acetate (1:3) to afford 510 mg of (R)-3-{4-[1-(4-cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid ethyl ester as an amorphous solid.

reactant | 4-[1-(Cyclohexylphenyl)-3-(3-methoxy-5-trifluormethylphenyl)ureidomethyl]benzoic acid | 0.8 mmol, 420 mg | C1(CCCCC1)C1=C(C=CC=C1)C(C1=CC=C(C(=O)O)C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC | C29H29F3N2O4
reactant | HOBt | 1.2 mmol, 160 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 1.2 mmol, 230 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (R)-isoserine ethyl ester | 1.2 mmol, 260 mg | C(C)OC([C@@H](CN)O)=O | C5H11NO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 mL | O | H2O
product | (R)-3-{4-[1-(4-cyclohexylphenyl)-3-(3-methoxy-5-trifluoromethylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid ethyl ester | 510 mg | C(C)OC([C@@H](CNC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C1CCCCC1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC)=O)O)=O | C34H38F3N3O6
